US08357717B2
Stage 3: N-(3,4-Dichlorophenyl)-3-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-6,7-dihydroisoxazolo[4,5-c]pyridine-5(4H)-carboxamide (G-46)
3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride (0.17 g, 0.562 mmol) was dissolved in DMF (8.6 ml) and triethylamine (0.15 ml, 1.123 mmol), and 4-methylmorpholine (0.17 g, 1.685 mmol) was added, followed by 5-(3,4-dichlorophenylcarbamoyl)-4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylic acid (0.2 g, 0.562 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.32 g, 1.3 mmol). The reaction mixture was stirred for 15 h at RT, and then the solvent was removed in vacuo. The residue was taken up in ethyl acetate and sat. sodium hydrogen carbonate solution, and the phases were separated. The aqueous phase was extracted with ethyl acetate, and then the combined organic phases were washed with sat. sodium chloride solution and sat. sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol 20:1+1% ammonia solution (25% aq.)). The purified product was dissolved in methyl ethyl ketone (2 ml); 2 M hydrogen chloride in diethyl ether (4 equiv.) was added at 0° C., and stirring was carried out for 1 h in an ice bath. The solid was filtered out with suction, washed with diethyl ether and dried in vacuo. Yield: 0.16 g (47%). MS, Rt=3.4 min; m/z=569.3 [MH]+

reactant | 3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride | 0.562 mmol, 0.17 g | Cl.Cl.N1=CC=C(C=C1)N1CCC2(CC1)CCNCC2
reactant | triethylamine | 1.123 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylmorpholine | 1.685 mmol, 0.17 g | CN1CCOCC1 | C5H11NO
reactant | 5-(3,4-dichlorophenylcarbamoyl)-4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylic acid | 0.562 mmol, 0.2 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CC2=C(CC1)ON=C2C(=O)O | C14H11Cl2N3O4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.3 mmol, 0.32 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hydrogen chloride | 2 M | Cl | ClH
reactant | diethyl ether | 4 equiv. | C(C)OCC | C4H10O
solvent | DMF | 8.6 ml | CN(C)C=O | C3H7NO
product | N-(3,4-Dichlorophenyl)-3-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-6,7-dihydroisoxazolo[4,5-c]pyridine-5(4H)-carboxamide | ClC=1C=C(C=CC1Cl)NC(=O)N1CC2=C(CC1)ON=C2C(=O)N2CCC1(CC2)CCN(CC1)C1=CC=NC=C1 | C28H30Cl2N6O3
